data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1288,1409,[CH3:14][NH:15][C:16](=[O:17])[CH-:18][N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[CH:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]=[C:20]3[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,10.789981384946117,-62.97604786140252
1696,1872,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:25](=[O:26])[O:27][CH3:28])[NH:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,24.228462297790603,-15.097705739923173
991,1080,[CH3:13][C:14](=[O:15])[C:16]([CH3:17])=[N+:18]([CH3:19])[C-:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:20]([C:21]#[N:22])([C:23]#[N:24])[N:18]([CH3:19])[C:16]2([C:14]([CH3:13])=[O:15])[CH3:17],water,298.15,29.65712043947624,-4.540606905993283
2245,2490,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([C:18](=[O:19])[O:20][CH3:21])[N+:22]([CH3:23])=[C:24]([C:25]#[N:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([C:7]([CH3:8])=[O:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([C:7]([CH3:8])=[O:9])([C:10]([CH3:11])=[O:12])[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:18](=[O:19])[O:20][CH3:21])[N:22]([CH3:23])[C:24]1([C:25]#[N:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,46.35551230643336,6.501923217170511
768,830,[CH3:11][C:12]#[N+:13][C-:14]([CH3:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:14]([CH3:15])([C:16](=[O:17])[NH:18][CH3:19])[N:13]=[C:12]3[CH3:11],water,298.15,9.506340723902667,-64.22961017922846
4317,4938,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)=[N:16][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,13.850413751410224,-39.39534619533461
225,245,[CH2-:7][N+:8]([CH3:9])=[C:10]([C:11]#[N:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1.[CH3:1][C:2](=[O:3])[C:4]#[C:5][Cl:6]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[C:10]([C:11]#[N:12])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:8]([CH3:9])[CH2:7]1,water,298.15,8.384705261038135,-55.0000926156257
4100,4693,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[O:14][CH3:15])=[N+:16]([CH3:17])[CH-:18][C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12](=[O:13])[O:14][CH3:15])[N:16]([CH3:17])[CH:18]1[C:19]([CH3:20])=[O:21],water,298.15,31.953843936735147,-12.988901395149233
4657,5312,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[O+:16][C-:17]([C:18]#[N:19])[C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:22](=[O:23])[O:24][CH3:25])[O:16][C:17]2([C:18]#[N:19])[C:20]#[N:21],water,298.15,4.271151292610973,-33.3431425663922
1176,1278,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20](=[O:21])[O:22][CH3:23])[n+:24]1[CH3:25].[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:19]1([C:20](=[O:21])[O:22][CH3:23])[C:17](=[O:18])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[N:24]1[CH3:25],water,298.15,25.10200674795178,-7.333454847497512
4982,5669,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[N:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,37.3083212009382,2.9873101280027177
3012,3364,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[N:11]=[NH+:12][NH-:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:11]([C:9]([NH:8][CH3:7])=[O:10])[NH:12][NH:13]1,water,298.15,24.345224912180072,-6.819894022844409
